US07902394B2
(f) Ethyl 3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}propanoate
Ethyl (2E)-3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}acrylate (1.90 g, 7.02 mmol) was dissolved in EtOH and then degassed (3×) with N2. Rh/Al2CO3 was added and then the solution was degassed again and then a H2 balloon was attached. After 16 h of stirring at rt, the solution was filtered through celite, concentrated, and purified by Biotage chromatography (0%-25% EtOAc/hexanes) to afford 1.41 g of product as an oil (74%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.45 (d, J=2.02 Hz, 1 H) 7.25 (d, J=8.08 Hz, 1 H) 7.08 (dd, J=8.08, 2.27 Hz, 1 H) 5.21 (dd, J=7.83, 3.03 Hz, 1 H) 4.13 (q, J=7.16 Hz, 2 H) 3.90 (dd, J=11.37, 3.28 Hz, 1 H) 3.56 (dd, J=11.37, 7.83 Hz, 1 H) 2.94 (t, J=7.71 Hz, 2 H) 2.62 (t, J=7.83 Hz, 2 H) 1.24 (t, J=7.20 Hz, 3 H).

reactant | Ethyl (2E)-3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}acrylate | 7.02 mmol, 1.90 g | ClC1=C(C=C(C=C1)/C=C/C(=O)OCC)[C@@H](CO)O | C13H15ClO4
solvent | EtOH | CCO | C2H6O
product | Ethyl 3-{4-chloro-3-[(1S)-1,2-dihydroxyethyl]phenyl}propanoate | 1.41 g, 74% | ClC1=C(C=C(C=C1)CCC(=O)OCC)[C@@H](CO)O | C13H17ClO4
